US07531532B2
4-Amino-3-methoxyphenol
1-Benzyloxy-3-methoxy-4-nitrobenzene (11.0 g) was dissolved in tetrahydrofuran (100 ml)-methanol (100 ml), and then 10% palladium carbon (5.0 g) was added thereto, followed by replacing with hydrogen inside the system and stirring overnight. After replacing with nitrogen inside the system, the reaction mixture was filtered to remove the catalyst, which was washed with tetrahydrofuran, ethyl acetate and methanol in this order. The filtrate was concentrated under a reduced pressure to give a residue, which was dried in vacuum to provide the titled compound (5.88 g, quantitatively) as brown powder.

reactant | 1-Benzyloxy-3-methoxy-4-nitrobenzene | 11.0 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])OC | C14H13NO4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium carbon | 5.0 g | [C].[Pd]
product | 4-Amino-3-methoxyphenol | NC1=C(C=C(C=C1)O)OC | C7H9NO2
